US08217060B2
A mixture of N-(3-amino-2′-trifluoromethyl-biphenyl-4-yl)-3-(tetrahydro-pyran-4-yl)-acrylamide (76.0 mg, 0.195 mmol, as prepared in the previous step) in toluene (5 mL) was treated with p-toluenesulfonic acid (74.2 mg, 0.390 mmol) and heated to 100° C. under a reflux condenser for 4 h. The cooled mixture was treated with saturated aqueous NaHCO3 (50 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 24-g Sepra Si 50 SPE column (Isco system: flow rate=20 mL/min; Eluent=1% MeOH—CH2Cl2 for 0-5 min, then 1-4% MeOH—CH2Cl2 for 5-25 min). The resulting residue was purified by RP-HPLC (C18) eluting with CH3CN, 0.1% TFA/water, 10:90 to 50:50, v/v over a period of 20 minutes. The desired column fractions were treated with saturated aqueous NaHCO3 to pH 7 and extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated in vacuo to yield (E)-2-[2-(tetrahydro-pyran-4-yl)-vinyl]-5-(2-trifluoromethyl-phenyl)-1H-benzimidazole as a pale yellow solid.

reactant | N-(3-amino-2′-trifluoromethyl-biphenyl-4-yl)-3-(tetrahydro-pyran-4-yl)-acrylamide | NC=1C=C(C=CC1NC(C=CC1CCOCC1)=O)C1=C(C=CC=C1)C(F)(F)F | C21H21F3N2O2
reactant | p-toluenesulfonic acid | 0.390 mmol, 74.2 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[2-(tetrahydro-pyran-4-yl)-vinyl]-5-(2-trifluoromethyl-phenyl)-1H-benzimidazole | O1CCC(CC1)/C=C/C1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)C(F)(F)F | C21H19F3N2O
